US08809525B2
6-(3,5-Difluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine (101 mg, 17%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and 3,5-difluorophenol (0.31 g, 3.98 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-difluorophenol | 3.98 mmol, 0.31 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 6-(3,5-Difluorophenoxy)-5-phenyl-1,2,4-triazin-3-amine | 101 mg, 17% | FC=1C=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=C(C1)F | C15H10F2N4O
